US09328074B2
Synthesis of 5,5-diphenylisoxazoline carboxylate ethyl ester
The cyclopropane derivative, 2,2-diphenylcyclopropanyl carboxylate ethyl ester (1.0 g, 3.8 mmol) was dissolved in 4.0 mL AcOH at room temperature (18° C.). Into the solution was carefully added 2.0 mL concentrated H2SO4, followed by adding NaNO2 (0.29 g, 4.1 mmol, 1.1 eq) in several portions so that the reaction temperature did not excess 40° C. After addition, the reactants were stirred at room temperature (about 18° C.) for half an hour before the reactants were poured into iced water and extracted with diethyl ether (2×20 mL), the ethereal solutions were combined and washed with sat. NaHCO3 (2×20 mL), then water (20 mL) and brine (20 mL). The washed ethereal solution was then dried over Na2SO4. After removing the desiccant, the ethereal solution was concentrated to furnish a thick oily product. The 1H NMR of the crude product showed that the reaction was clean and the yield was virtually 100%. The thick oily crude product was stirred with 10 mL petrol to give a pale yellow solid 1.07 g, 97% yield.

reactant | cyclopropane | C1CC1 | C3H6
reactant | 2,2-diphenylcyclopropanyl carboxylate ethyl ester | 3.8 mmol, 1.0 g | C(C)OC(=O)C1C(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18O2
reactant | H2SO4 | 2.0 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 4.1 mmol, 0.29 g, 1.1 eq | N(=O)[O-].[Na+]
solvent | AcOH | 4.0 mL | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 5,5-diphenylisoxazoline carboxylate ethyl ester | 1.07 g, 97% yield | C(C)OC(=O)C1=NOC(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H17NO3
